US04625042
A mixture of 30.0 g (163.0 mmol) of 3-(4-fluorophenoxy)propionic acid and 180 ml of concentrated sulfuric acid was stirred for 1 hour at room temperature and then the reaction mixture was poured into 700 g of ice to deposit immediately a white crystal. The white crystal was collected by filtration, washed with water and dried in air, and the resultant was recrystallized from ethanol to give 20.55 g of 6-fluoro-4-chromanone as a white crystal (yield: 76%).

reactant | 3-(4-fluorophenoxy)propionic acid | 163.0 mmol, 30.0 g | FC1=CC=C(OCCC(=O)O)C=C1 | C9H9FO3
solvent | sulfuric acid | 180 ml | S(O)(O)(=O)=O | H2O4S
product | 6-fluoro-4-chromanone | 20.55 g, yield: 76% | FC=1C=C2C(CCOC2=CC1)=O | C9H7FO2
